US07148250B2
To a deoxygenated solution of 3-(2-acetylthioethyl)-1-phenyl-1H-indole-2-carboxylic acid, methyl ester in dioxane (5 mL) was added a deoxygenated solution of potassium hydroxide (0.168 g, 3.0 mmol) in water (5 mL). The reaction mixture was stirred overnight. Volatile solvent was removed under reduced pressure and the remaining mixture was poured into 1 N HCl (25 mL) containing ice chips. The resulting white precipitate was washed with H2O and dried under vacuum to give 0.110 g of 3-(2-mercaptoethyl)-1-phenyl-1H-indole-2-carboxylic acid (93% yield) as a white solid: 1H NMR (CDCl3) δ 1.52 (t, J=8.1 Hz, 1H), 2.91 (q, J=7.7 Hz, 2H), 3.49 (t, J=7.6 Hz, 2H), 7.08 (d, J=8.2 Hz, 1H), 7.21 (t, J=7.5 Hz, 1H), 7.27–7.33 (m, 3H), 7.42–7.53 (m, 3H), 7.78 (d, J=8.0 Hz, 1H). Anal. Calcd. for C17H15N2O2S.0.25 H2O: C, 67.64, H, 5.18, N, 4.64, S, 10.62. Found: C, 67.77, H, 5.15, N, 4.69, S, 10.62.

reactant | 3-(2-acetylthioethyl)-1-phenyl-1H-indole-2-carboxylic acid, methyl ester | C(C)(=O)SCCC1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OC | C20H19NO3S
reactant | potassium hydroxide | 3.0 mmol, 0.168 g | [OH-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | 3-(2-mercaptoethyl)-1-phenyl-1H-indole-2-carboxylic acid | 0.110 g, 93% yield | SCCC1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)O | C17H15NO2S
